US05068340
3-O-(N-Heptadecylcarbamoyl)-1-O-triphenylmethyl-sn-glycerol
A solution of 12.03 g of 3 -O-(N-heptadecylcarbamoyl)-sn-glycerol (prepared as described in Preparation 15), 10.77 g of triphenylmethyl chloride and 10.8 ml of triethylamine dissolved in 240 ml of toluene was heated under reflux for 1.5 hours. After cooling, the reaction mixture was poured into water (0.5 liter) and then extracted twice with ethyl acetate. The combined extracts were washed with water, dried and concentrated by evaporation under reduced pressure. The resulting residue was dissolved in 240 ml of tetrahydrofuran. To the resulting solution was added 120 ml of a saturated aqueous solution of sodium bicarbonate, and the mixture was stirred at room temperature for 1 hour. After pouring the reaction mixture into water followed by extracting twice with ethyl acetate, the combined extracts were washed with water, dried and concentrated by evaporation under reduced pressure. The residue was subjected to column chromatography through 400 g of silica gel and to medium pressure liquid chromatography using an NQ-3 Packed Column (Wako pure Chemical Industry Co.). 15.89 g of the title compound were obtained from the fractions eluted with mixtures of hexane and diethyl ether ranging from 3:2 to 2:3 by volume as a viscous liquid.

reactant | 3 -O-(N-heptadecylcarbamoyl)-sn-glycerol | 12.03 g | C(CCCCCCCCCCCCCCCC)NC(=O)OC[C@@H](CO)O | C21H43NO4
reactant | triphenylmethyl chloride | 10.77 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | triethylamine | 10.8 ml | C(C)N(CC)CC | C6H15N
reactant | water | 0.5 liter | O | H2O
solvent | toluene | 240 ml | C1(=CC=CC=C1)C | C7H8
product | 3-O-(N-Heptadecylcarbamoyl)-1-O-triphenylmethyl-sn-glycerol | 15.89 g | C(CCCCCCCCCCCCCCCC)NC(=O)OC[C@@H](COC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)O | C40H57NO4
